US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-tert-butyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 116 mg of 4-tert-Butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.21 (s, 9H), 7.28–7.34 (m, 3H), 7.37–7.44 (m, 4H), 7.48 (dd, 1H, J=8.8, 2.4 Hz), 7.54–7.62 (m, 3H), 7.78 (d, 1H, J=8.8 Hz), 9.89 (s, 1H). MS: m/z 428.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-tert-Butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-tert-butyl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C23H22ClNO3S
